US08530473B2
16.1 g of methyl-phenyl-divinyl-silane is put in 65 ml of anhydrous THF under nitrogen at room temperature. 24.6 g of 9-BBN dimer is added and the mixture is refluxed for 4 h. On return to room temperature, 40 ml of H2O is added, followed by 90 ml of a 3N soda solution. The mixture is cooled to 0° C. and 90 ml of a 30% solution of hydrogen peroxide is added cautiously. The mixture is then refluxed for 2 h. The two-phase mixture is extracted with ethyl acetate three times. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under vacuum. The raw product obtained is chromatographed on silica gel, eluting with a gradient of ethanol and of dichloromethane in heptane ranging from 0.4/3.6/6 to 0.4/4.4/5. 15.1 g of 2-[(2-hydroxy-ethyl)-methyl-phenyl-silanyl]-ethyl alcohol is obtained in the form of a white solid.

reactant | methyl-phenyl-divinyl-silane | 16.1 g | C[Si](C=C)(C=C)C1=CC=CC=C1 | C11H14Si
reactant | 9-BBN dimer | 24.6 g | C12B([H]B34C5CCCC3CCC5)([H]4)C(CCC2)CCC1 | C16H30B2
reactant | H2O | 40 ml | O | H2O
reactant | hydrogen peroxide | OO | H2O2
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | 2-[(2-hydroxy-ethyl)-methyl-phenyl-silanyl]-ethyl alcohol | 15.1 g | OCC[Si](CCO)(C1=CC=CC=C1)C | C11H18O2Si
